Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Terazosin / antihistamines
 
Attending: ___.
 
Chief Complaint:
abdominal pain 
 
Major Surgical or Invasive Procedure:
none 
 
History of Present Illness:
___ with stage 4 pancreatic cancer with mets to the liver s/p 
ERCP sphincterotomy and biliary stent placement ___ for 
strictures, hx of DVT on coumadin, gastritis, hyperlipidemia who 
is presenting with abdominal distension and nausea/vomiting. He 
has not been able to tolerate POs for the last week. 

Per Mr. ___ wife, he has only been tolerating liquids for 
about a month.  He has also been constipated for several days 
and required manual disimpactation. The afternoon of 
presentation, his wife reports he ___ dark brown material 
and was complaining of abdominal pain.  At that point, she 
decided to call an ambulance. Per wife, the patient had been on 
home hospice and would no longer undergo treatment for his 
pancreatic cancer.  She notes that at baseline he does not have 
cognitive deficits.     

In the ED, initial vitals were 97 59 91/62 16 99% RA. He was 
noted to be significantly distended and had an NG tube placed 
which put out 3L of feculent material. He was disimpacted in the 
ED. After removal of gastric contents his pain improved. He was 
noted to have an elevated lactate to 3.3 in the setting of 
obstruction and ___ (creatine from 1). Surgery saw patient in ED 
and said there was no surgical management options. While in ED, 
he became hypotensive to 60-70s, after which he received IVF 2L, 
and was started empirically on cipro and flagyl. 

On arrival to the FICU, the patient was confused but denied any 
abdominal pain.  

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
Patient was admitted to ___ on ___ due to jaundice x 5
days. He also had had dysphagia for 2 months with difficulty in
swallowing solid food. +Anorexia, 20lbs in a few months. Denied
abd pain/N/V. Denied fever/chills/dyspnea. Total bili was 10.2 
on
___ at ___ office. CT abd/pelvis showed a large 5.1-cm 
mass
in the head and uncinate process of the pancreas with 
associated obstruction of the common bile duct and pancreatic 
duct; and multiple hypoenhancing lesions within the liver most 
consistent with metastatic disease. CT chest showed 3 cm soft 
tissue density nodule at the left lung base. EUS and ERCP were
performed on ___. A sphincterotomy was performed and a
biliary stent was placed. Cytology samples were obtained using a
brush in the lower end stricture of the common bile duct, which
showed adenocarcinoma. Patient started chemotherapy ___ and
is s/p 9 cycles of Gemzar (c/b sepsis) and now is on C5 of
mFOLFOX.
 

PAST MEDICAL HISTORY:
Obesity
Prostate cancer
- s/p external beam radiation with casodex by Dr. ___ at 
___
in ___. PSA was 0.1 in ___
Chronic gastritis  
Peripheral arterial disease  
Aneurysm artery, popliteal  
Iliac artery aneurysm  
History of above knee amputation    
Hypercalcemia  
Dysphagia  
DVT (deep venous thrombosis)  
- dx of right superficial femoral vein ___ 
Leg swelling
 
Social History:
___
Family History:
No family hx of hepatobiliary cancer.
 
Physical Exam:
Admission Physical Exam:
Vitals- 77 89/55 13 100% RA 
General: alert but disorientated, states he should not be in 
hospital  
HEENT: Sclera anicteric, very dry mucous membranes  
Lungs: limited exam as patient not cooperative, Clear to 
auscultation bilaterally, no wheezes, rales, ronchi  
CV: Regular rate and rhythm, no murmurs/rubs/gallops
Abdomen: soft, non-tender, non-distended, not appreciate bowel 
sounds, no rebound tenderness or guarding, no organomegaly    
Ext: warm, well perfused, s/p AKA right amputation 

Discharge Physical Exam:

 
Pertinent Results:
Admission Labs:
--------------
___ 03:26AM   ___ PO2-52* PCO2-71* PH-7.50* TOTAL 
CO2-57* BASE XS-25
___ 03:26AM   LACTATE-2.9*
___ 02:39AM   GLUCOSE-137* UREA N-95* CREAT-3.8* 
SODIUM-132* POTASSIUM-3.2* CHLORIDE-71* TOTAL CO2-46* ANION 
GAP-18
___ 02:39AM   ALT(SGPT)-12 AST(SGOT)-28 LD(LDH)-191 ALK 
PHOS-115 TOT BILI-0.4
___ 02:39AM   ALBUMIN-3.3* CALCIUM-9.3 PHOSPHATE-6.3*# 
MAGNESIUM-3.9*
___ 02:39AM   WBC-12.6* RBC-4.22* HGB-11.4* HCT-33.9* 
MCV-80* MCH-27.0 MCHC-33.6 RDW-15.4
___ 02:39AM   NEUTS-88* BANDS-0 LYMPHS-8* MONOS-4 EOS-0 
BASOS-0 ___ MYELOS-0
___ 02:39AM   HYPOCHROM-2+ ANISOCYT-NORMAL POIKILOCY-2+ 
MACROCYT-NORMAL MICROCYT-NORMAL POLYCHROM-NORMAL TARGET-2+
___ 02:39AM   PLT SMR-NORMAL PLT COUNT-392
___ 02:39AM   ___ PTT-42.7* ___
___ 08:34PM   LACTATE-3.3*
___ 08:30PM   GLUCOSE-189* UREA N-106* CREAT-4.6*# 
SODIUM-128* POTASSIUM-3.7 CHLORIDE-61* TOTAL CO2-48* ANION 
GAP-23*
___ 08:30PM   estGFR-Using this
___ 08:30PM   ALT(SGPT)-17 AST(SGOT)-39 ALK PHOS-149* TOT 
BILI-0.5
___ 08:30PM   LIPASE-14
___ 08:30PM   ALBUMIN-4.1
___ 08:30PM   WBC-10.5# RBC-5.16 HGB-13.9* HCT-40.5 MCV-79* 
MCH-27.0 MCHC-34.3 RDW-15.6*
___ 08:30PM   NEUTS-88.4* LYMPHS-7.2* MONOS-4.1 EOS-0.2 
BASOS-0.1
___ 08:30PM   PLT COUNT-521*#
___ 08:30PM   ___ PTT-44.2* ___

Discharge Labs:
--------------
___ 07:55AM BLOOD WBC-8.7 RBC-4.03* Hgb-11.0* Hct-32.9* 
MCV-82 MCH-27.3 MCHC-33.5 RDW-15.9* Plt ___
___ 07:55AM BLOOD Plt ___
___ 07:55AM BLOOD ___
___ 07:55AM BLOOD Glucose-97 UreaN-31* Creat-1.2 Na-145 
K-3.4 Cl-101 HCO3-34* AnGap-13
___ 07:55AM BLOOD Mg-2.1

Imaging:
-------
Abdominal Xray ___
FINDINGS:  
A common bile duct stent and right nephroureteral stent are 
seen. The stomach is massively distended. There is no evidence 
of free air. There is no pneumatosis. Degenerative changes of 
the bilateral hips and lower lumbar spine. 
IMPRESSION:  
Massively dilated stomach, as demonstrated on the same-day CT. 

CT Abdomen ___
1. Limited examination without IV or oral contrast. Massively 
dilated stomach with mildly dilated proximal duodenum and 
decompressed loops of bowel distally consistent with a gastric 
outlet obstruction. While the cause is not definitely seen there 
is a large amount of soft tissue density in the region of the a 
CBD stent and duodenum, which could be the culprit.
2. Progression of pancreatic cancer with increase in size of the 
pancreatic head mass which now abuts the midpole of the right 
kidney without a clear fat plane. There is likely also IVC 
extension.
3. Right nephroureteral stent in place without evidence of 
hydronephrosis.
4. Unchanged appearance of a CBD stent with expected 
pneumobilia.

 
Brief Hospital Course:
___ with stage IV pancreatic cancer now causing gastric oulet 
obstruction s/p NG tube placement for decompression with no 
surgical options for obstruction management.  His course was 
complicated by hypotension that was managed with IVF boluses.    


# Gastric outlet obstruction: Mr. ___ presented with signs and 
symptoms of severe obstruction likely secondary to his 
progressive pancreatic cancer.  On presentation to the ICU, his 
abdominal pain appeared to have resolved now that he is s/p NG 
tube placement. NG tube was kept in place until pt self removed. 
He was seen by palliative care and started on octreotide however 
he still had abdominal pain, distension and emesis. Surgery was 
consulted and had no interventions to offer. GI was consulted 
and was able to place a duodenal stent across the stricture. 
After the procedure pt was able to tolerate a low residue diet 
without emesis. He was seen by nutrition for education on this 
diet.

# Metabolic Alkalosis: Patient presented with severe contraction 
alkalosis. Likely in the setting of vomitting secondary to 
obstruction. Resolved with IVF.  

# Elevated lactate: Lactate was 3.3 on admission, improved to 
2.9 with IVF.  Etiology was likely multifactorial. Possibly due 
to hypoprofusion in setting of poor PO intake and hypotension. 
Resolved with hydration

# Acute Kidney Injury: Profound increase in creatinine.  His 
poor PO intake and vomitting may be contributing to a prerenal 
picture. Urine output was stable.  His creatine improved from 
4.6 to 3.8 with IVF.  After procedure he was able to maintain 
his own hydration with IVF and Cr decreased to 1.2 which is is 
baseline.
 
# Coagulopathy: All coagulation factors were elevated, this was 
due to nutritional deficits as well as progression of pancreatic 
disease to liver. His INR improved with IV vitamin K which was 
given prior to GI procedure.   

# GOC:  Spoke with patient's wife he reports that Mr. ___ was 
on hospice and has decided to defer any further treatment of his 
pancreatic cancer.  Both she and Mr. ___ would like him to 
return home they were comfortable with this after his clinical 
improvement.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Phenazopyridine 100 mg PO TID 
2. Docusate Sodium 100 mg PO BID:PRN constipation 
3. Senna 17.2 mg PO DAILY:PRN constipation 
4. Creon 12 1 CAP PO TID W/MEALS 
5. Simvastatin 40 mg PO QPM 
6. Multivitamins 1 TAB PO DAILY 
7. OxycoDONE (Immediate Release)  2.5-5 mg PO Q4H:PRN pain 
8. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Creon 12 1 CAP PO TID W/MEALS 
2. Senna 17.2 mg PO DAILY:PRN constipation 
3. OxycoDONE Liquid 2.5-5 mg PO Q6H 
do not combine with other sedating medications; do not use if 
not needed for pain 
RX *oxycodone 5 mg/5 mL 2.5-5 mg by mouth every 6 hours Disp 
#*500 Milliliter Refills:*0
4. Prochlorperazine 10 mg PO Q8H:PRN nausea 
RX *prochlorperazine maleate 10 mg 1 tablet(s) by mouth every 8 
hours as needed for nausea Disp #*30 Tablet Refills:*0
5. Docusate Sodium 100 mg PO BID:PRN constipation 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
gastric outlet obstruction
Acute kidney injury

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure providing care for you at ___.  
Why was I here?
You had belly pain and vomitting. Your kidney was also not 
working well. 

What was done? 
You had a blockage in the digestive track.  You got a stent 
placed down in your intestines and this improved your symptoms.  

You also got fluids through your IV to help your kidneys. 

 
Followup Instructions:
___